US05296499
To a solution of methyl 5,6-dimethoxy-3-(3,4-dimethoxyphenyl)indole-2-carboxylate (7.5 g) in N,N-dimethylformamide (100 ml) was added oily sodium hydride (60%, 1.6 g) and the mixture was stirred for 30 minutes at room temperature. After dropwise addition of ethyl iodide (4.8 ml), the reaction mixture was further stirred for 2 hours at room temperature, poured into water and extracted with ethyl acetate. The ethyl acetate layer was washed with water, dried (MgSO4) and concentrated. The precipitated crystals were collected by filtration and recrystallized from ethyl ether to give methyl 1-ethyl-5,6-dimethoxy-3-(3,4-dimethoxyphenyl)indole-2-carboxylate (6.38 g, 77%) as pale red prisms.

reactant | methyl 5,6-dimethoxy-3-(3,4-dimethoxyphenyl)indole-2-carboxylate | 7.5 g | COC=1C=C2C(=C(NC2=CC1OC)C(=O)OC)C1=CC(=C(C=C1)OC)OC | C20H21NO6
reactant | sodium hydride | 1.6 g | [H-].[Na+]
reactant | ethyl iodide | 4.8 ml | C(C)I | C2H5I
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | methyl 1-ethyl-5,6-dimethoxy-3-(3,4-dimethoxyphenyl)indole-2-carboxylate | 6.38 g, 77% | C(C)N1C(=C(C2=CC(=C(C=C12)OC)OC)C1=CC(=C(C=C1)OC)OC)C(=O)OC | C22H25NO6
